US05516774
2-(Trifluoromethyl)benzoyl chloride
A solution of 2.0 g of o-trifluoromethylbenzoic acid in 21 ml of thionyl chloride is heated at reflux for 1 hour. The volatiles are evaporated in vacuo to give a residue which is concentrated from toluene three times and dried under vacuum to give 2.1 g of the desired product as a residue.

reactant | o-trifluoromethylbenzoic acid | 2.0 g | FC(C1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O2
reactant | thionyl chloride | 21 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(Trifluoromethyl)benzoyl chloride | 2.1 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
